US08124606B2
Compound 86A: Ethyl 4-(5-(methoxycarbonyl)-3-nitropyridin-2-yl)thiomorpholine-3-carboxylate:
Methyl 6-chloro-5-nitronicotinate (1.1 g, 5.10 mmol) was added to ethyl thiomorpholine-3-carboxylate (2.0 g, 11.41 mmol) neat while stirring at room temperature. The viscous yellow reaction was heated to 90° C. for one hour and then allowed to cool back to room temperature. The reaction was diluted with dichloromethane (20 mL) and purified via column chromatography (220 g SiO2, 20-30% gradient, ethyl acetate in hexanes) to yield the title compound (1.71 g, 95%) as a yellow oil. [M+H] calc'd for C15H18N2O6S, 356. found, 356.

reactant | Methyl 6-chloro-5-nitronicotinate | 5.10 mmol, 1.1 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
reactant | ethyl thiomorpholine-3-carboxylate | 11.41 mmol, 2.0 g | N1C(CSCC1)C(=O)OCC | C7H13NO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Ethyl 4-(5-(methoxycarbonyl)-3-nitropyridin-2-yl)thiomorpholine-3-carboxylate | 1.71 g, 95% | COC(=O)C=1C=C(C(=NC1)N1C(CSCC1)C(=O)OCC)[N+](=O)[O-] | C14H17N3O6S
